US05220042
37 Milligrams of 1,16-bis(5-methoxy-2-hydroxy-1,4-benzoquinon-3-yl)-8,9-epoxyhexadecane was dissolved in 2 ml of tetrahydrofuran, to this solution was added 0.5 ml of 5% perchloric acid aqueous solution and the mixture was stirred at room temperature for 4 hours. Then, 30 ml of diethyl ether was added to the reaction mixture, and the organic layer was washed with a saturated sodium chloride aqueous solution in several times, and dried over anhydrous sodium sulfate. This extract was purified by means of a preparative thin layer chromatography [adsorbent: "Silica gel 60 F254 " manufactured by E. Merck A. G., developing solvent: chloroform-methanol (85:15 mixture by volume/volume)], then recrystallized from ethyl acetate-n-hexane to obtain 12 mg of 1,16-bis(5-methoxy-2-hydroxy-1,4-benzoquinon-3-yl)-8,9-dihydroxyhexadecane. Yellow powdery crystals.

reactant | 1,16-bis(5-methoxy-2-hydroxy-1,4-benzoquinon-3-yl)-8,9-epoxyhexadecane | COC=1C(C(=C(C(C1)=O)O)CCCCCCCC1C(CCCCCCCC2=C(C(C=C(C2=O)OC)=O)O)O1)=O | C30H40O9
reactant | perchloric acid | 0.5 ml | Cl(=O)(=O)(=O)O | ClHO4
reactant | diethyl ether | 30 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 1,16-bis(5-methoxy-2-hydroxy-1,4-benzoquinon-3-yl)-8,9-dihydroxyhexadecane | 12 mg | COC=1C(C(=C(C(C1)=O)O)CCCCCCCC(C(CCCCCCCC1=C(C(C=C(C1=O)OC)=O)O)O)O)=O | C30H42O10
